US07335660B2
c) 3-((3R)-3-Methyl-4-{2-[(1S)-6-(4-thiomorpholinyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl}piperazinyl)-1-benzothiophene-6-carbonitrile
Prepared by condensation of 2-[(1S)-6-(4-thiomorpholinyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate with (3R)-1-(6-cyano-1-benzothien-3-yl)-3-methylpiperazine, as described for Example 1b). M+H=519.

reactant | 2-[(1S)-6-(4-thiomorpholinyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)N2CCSCC2 | C16H23NO4S2
reactant | (3R)-1-(6-cyano-1-benzothien-3-yl)-3-methylpiperazine | C(#N)C1=CC2=C(C(=CS2)N2C[C@H](NCC2)C)C=C1 | C14H15N3S
product | 3-((3R)-3-Methyl-4-{2-[(1S)-6-(4-thiomorpholinyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl}piperazinyl)-1-benzothiophene-6-carbonitrile | C[C@@H]1CN(CCN1CC[C@@H]1OCCC2=C1C=CC(=C2)N2CCSCC2)C2=CSC1=C2C=CC(=C1)C#N | C29H34N4OS2
